US05418248
2-(2,5-Dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetic acid.
14 g (0.0379 mole) of N,N-dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetamide and 350 ml of 2-methoxyethanol are introduced into a 1000 ml round-bottomed flask, the solution is heated to 100° C., 25 ml of a solution at 30% sodium hydroxide (0.189 mole) are added, the mixture is heated at boiling temperature for 30 minutes, a further 25 ml of 30% sodium hydroxide are added and the heating is maintained for 4 h. 25 ml of a solution at 30% sodium hydroxide are again added and the mixture is heated for a further 3 h. The solvents are evaporated under reduced pressure, the residue is taken up in 500 ml of water, the insoluble matter is separated by filtration and the pH of the filtrate is adjusted to 4 with acetic acid. A yellow precipitate is obtained which is separated by filtration and it is washed with water and then with diethyl ether. After crystallization from methanol, 9 g of light yellow crystals are obtained. Melting point: 249°-250° C.

reactant | N,N-dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetamide | 0.0379 mole, 14 g | CN(C(CC1=C(N=C2SC3=C(N21)C=CC=C3)C3=C(SC(=C3)C)C)=O)C | C19H19N3OS2
reactant | sodium hydroxide | 0.189 mole | [OH-].[Na+]
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | 2-methoxyethanol | 350 ml | COCCO | C3H8O2
product | 2-(2,5-Dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetic acid | CC=1SC(=CC1C=1N=C2SC3=C(N2C1CC(=O)O)C=CC=C3)C | C17H14N2O2S2
